US07491716B2
2-(4-Dimethylaminofuro[3,2-c]pyridin-7-yl)acetamide
Combine 2-(4-chlorofuro[3,2-c]pyridin-7-yl)acetamide (850 mg, 4.21 mmol), dimethylformamide (5 mL) and ethanolamine (0.76 mL, 12.63 mmol). Heat the reaction at 130° C. overnight. Add additional ethanolamine (0.25 ml) and heat at 130° C. overnight. Cool to room temperature, concentrate, and dilute with ethyl acetate. Wash with saturated aqueous sodium bicarbonate and concentrate. Subject to flash chromatography, eluting with ethyl acetate:methanol to provide the title compound as a white solid (400 mg, 43%).

reactant | 2-(4-chlorofuro[3,2-c]pyridin-7-yl)acetamide | 4.21 mmol, 850 mg | ClC1=NC=C(C2=C1C=CO2)CC(=O)N | C9H7ClN2O2
reactant | ethanolamine | 12.63 mmol, 0.76 mL | C(O)CN | C2H7NO
reactant | ethanolamine | 0.25 ml | C(O)CN | C2H7NO
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(4-Dimethylaminofuro[3,2-c]pyridin-7-yl)acetamide | 400 mg, 43% | CN(C1=NC=C(C2=C1C=CO2)CC(=O)N)C | C11H13N3O2
